US09126998B2
rac-tert-Butyl [3-(4-fluorophenoxy)-2-hydroxypropyl]carbamate
0.93 g of rac-1-amino-3-(4-fluorophenoxy)propan-2-ol (5.07 mmol, 1 equivalent) were initially charged in 10.5 ml of dichloromethane, and first 1.5 ml of triethylamine (10.7 mmol, 2.1 equivalents) and then 1.31 ml of di-tert-butyl dicarbonate (5.68 mmol, 1.12 equivalents) were added. The reaction mixture was stirred at RT for 2 h. The mixture was then diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution and with saturated aqueous sodium chloride solution. The organic phase was dried over magnesium sulphate, filtered and concentrated. The residue was used without further purification for the next reaction.

reactant | rac-1-amino-3-(4-fluorophenoxy)propan-2-ol | 5.07 mmol, 0.93 g, 1 equivalent | NCC(COC1=CC=C(C=C1)F)O | C9H12FNO2
reactant | triethylamine | 10.7 mmol, 1.5 ml, 2.1 equivalents | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.68 mmol, 1.31 ml, 1.12 equivalents | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10.5 ml | ClCCl | CH2Cl2
product | rac-tert-Butyl [3-(4-fluorophenoxy)-2-hydroxypropyl]carbamate | FC1=CC=C(OCC(CNC(OC(C)(C)C)=O)O)C=C1 | C14H20FNO4
